US09145409B2
[(1S)-1-[3-(cyclopropylmethoxy)-4-(difluoromethoxy)phenyl]-2-(3,5-dichloro-1-oxido-pyridin-1-ium-4-yl)ethyl](2S)-1-[3-[3-[(S)-phenyl-[[(3R)-quinuclidin-3-yl]oxycarbonylamino]methyl]phenoxy]carbonylphenyl]sulfonylpyrrolidine-2-carboxylate (E1)
To a solution of 4-((S)-2-(((S)-1-(tert-butoxycarbonyl)pyrrolidine-2-carbonyl)oxy)-2-(3-(cyclopropylmethoxy)-4-(difluoromethoxy)phenyl)ethyl)-3,5-dichloropyridine 1-oxide (I2, 270 mg, 0.44 mmol) dissolved in EtOAc (6 mL) was added a solution of HCl in dioxane (4 N, 7.2 mL, 28.8 mmol) at 0° C. The resulting mixture was stirred at 0° C. for 1 h before addition of HCl in dioxane (4 N, 2 mL, 8.0 mmol). The resulting slurry was stirred for 1 h and then the solvent was removed in vacuo. The residue was redissolved in DCM (50 mL) and washed with saturated aqueous NaHCO3 (20 mL). The organic phase was passed through a hydrophobic fit and the solvent was removed in vacuo to yield an oil that was used immediately without further purification. The residue was then taken up in acetone (4 mL) and THF (4 mL). 3-Chlorosulfonyl benzoic acid (845 mg, 3.86 mmol) and 2 M NaOH (3.86 mL, 7.72 mmol) were added at room temperature and the resulting mixture stirred for 16 h. After concentration in vacuo, the residue was diluted in DCM (50 mL) and the pH adjusted to 2 with an aqueous 1 N HCl saturated with brine. The organic phase was dried over MgSO4 and concentrated in vacuo. The resulting oil (195 mg) was used directly in the next step without further purification. To a solution of the carboxylic acid, (R)-quinuclidin-3-yl ((S)-(3-hydroxyphenyl)(phenyl)methyl)carbamate (197 mg, 0.56 mmol), 4-(dimethylamino)-pyridine (17 mg, 0.14 mmol) in DMF (2.5 mL) was added N-(3-dimethylaminopropyl)-N′-ethylcarbodiimide hydrochloride (107 mg, 0.56 mmol).

reactant | 4-((S)-2-(((S)-1-(tert-butoxycarbonyl)pyrrolidine-2-carbonyl)oxy)-2-(3-(cyclopropylmethoxy)-4-(difluoromethoxy)phenyl)ethyl)-3,5-dichloropyridine 1-oxide | 0.44 mmol, 270 mg | C(C)(C)(C)OC(=O)N1[C@@H](CCC1)C(=O)O[C@@H](CC1=C(C=[N+](C=C1Cl)[O-])Cl)C1=CC(=C(C=C1)OC(F)F)OCC1CC1 | C28H32Cl2F2N2O7
reactant | HCl | Cl | ClH
reactant | dioxane | 28.8 mmol, 4 N, 7.2 mL | O1CCOCC1 | C4H8O2
reactant | dioxane | 8.0 mmol, 4 N, 2 mL | O1CCOCC1 | C4H8O2
reactant | 3-Chlorosulfonyl benzoic acid | 3.86 mmol, 845 mg | ClS(=O)(=O)C=1C=C(C(=O)O)C=CC1 | C7H5ClO4S
reactant | NaOH | 7.72 mmol, 2 M, 3.86 mL | [OH-].[Na+]
reactant | (R)-quinuclidin-3-yl ((S)-(3-hydroxyphenyl)(phenyl)methyl)carbamate | 0.56 mmol, 197 mg | OC=1C=C(C=CC1)[C@H](C1=CC=CC=C1)NC(O[C@H]1CN2CCC1CC2)=O | C21H24N2O3
reactant | N-(3-dimethylaminopropyl)-N′-ethylcarbodiimide hydrochloride | 0.56 mmol, 107 mg | Cl.CN(CCCN=C=NCC)C
solvent | EtOAc | 6 mL | CCOC(=O)C | C4H8O2
catalyst | 4-(dimethylamino)-pyridine | 0.14 mmol, 17 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | DMF | 2.5 mL | CN(C)C=O | C3H7NO
product | [(1S)-1-[3-(cyclopropylmethoxy)-4-(difluoromethoxy)phenyl]-2-(3,5-dichloro-1-oxido-pyridin-1-ium-4-yl)ethyl](2S)-1-[3-[3-[(S)-phenyl-[[(3R)-quinuclidin-3-yl]oxycarbonylamino]methyl]phenoxy]carbonylphenyl]sulfonylpyrrolidine-2-carboxylate | C1(CC1)COC=1C=C(C=CC1OC(F)F)[C@H](CC1=C(C=[N+](C=C1Cl)[O-])Cl)OC(=O)[C@H]1N(CCC1)S(=O)(=O)C1=CC(=CC=C1)C(=O)OC1=CC(=CC=C1)[C@@H](NC(=O)O[C@H]1CN2CCC1CC2)C2=CC=CC=C2 | C51H50Cl2F2N4O11S
